US08076359B2
Step 5: Methyl 3-hydroxy-5-(2-methoxyethyl)benzoate
To a solution of methyl 3-(benzyloxy)-5-[2-methoxyvinyl]benzoate (1 eq.) from the previous step in ethanol was added 10% palladium on activated carbon (5 mol %). The reaction vessel was evacuated and back-filled with hydrogen twice. After 1 h, more 10% palladium on activated carbon (5 mol %) was added and the reaction was stirred for 18 h. The reaction was diluted with DCM and filtered through a pad of celite. Concentration in vacuo afforded the title compound as an oil.

reactant | methyl 3-(benzyloxy)-5-[2-methoxyvinyl]benzoate | 1 eq. | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C=COC | C18H18O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
product | Methyl 3-hydroxy-5-(2-methoxyethyl)benzoate | OC=1C=C(C(=O)OC)C=C(C1)CCOC | C11H14O4
